US07531545B2
Step E: 2-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-3,N-dimethyl-N-phenethyl-butyramide hydrochloride salt
A solution of 2-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-3,N-dimethyl-N-phenethyl-butyramide (1.69 g, 3.9 mmol) and isopropyl alcohol (10 mL) was added cyanogen bromide in dichloromethane (1.3 mL, [3M]) and the resulting mixture was stirred at room temperature for 16 hours. The solvent was evaporated to yield a brown solid. The brown solid was purified by reverse phase chromatography. The solvent was evaporated from the desired fractions, and the solute was treated with 1N HCl to yield the title compound as a solid, as its corresponding hydrochloride salt.

reactant | 2-[(5-amino-2-phenoxy-pyridin-4-ylmethyl)-amino]-3,N-dimethyl-N-phenethyl-butyramide | 3.9 mmol, 1.69 g | NC=1C(=CC(=NC1)OC1=CC=CC=C1)CNC(C(=O)N(CCC1=CC=CC=C1)C)C(C)C | C26H32N4O2
reactant | isopropyl alcohol | 10 mL | C(C)(C)O | C3H8O
reactant | cyanogen bromide | N#CBr | CBrN
reactant | dichloromethane | 3M, 1.3 mL | ClCCl | CH2Cl2
product | 2-(2-Amino-6-phenoxy-4H-pyrido[3,4-d]pyrimidin-3-yl)-3,N-dimethyl-N-phenethyl-butyramide hydrochloride salt | Cl.NC=1N(CC2=C(N1)C=NC(=C2)OC2=CC=CC=C2)C(C(=O)N(CCC2=CC=CC=C2)C)C(C)C | InChI=1S/C27H31N5O2.ClH/c1-19(2)25(26(33)31(3)15-14-20-10-6-4-7-11-20)32-18-21-16-24(29-17-23(21)30-27(32)28)34-22-12-8-5-9-13-22;/h4-13,16-17,19,25H,14-15,18H2,1-3H3,(H2,28,30);1H
